US06515011B2
To a stirred solution of iPr2NH (0.31 mL, 2.24 mmol) in THF (10 mL) at −78° C. under nitrogen atmosphere was added 2.5M n-BuLi in THF solution (0.75 mL, 1.86 mmol). The solution was stirred for 15 min at −78° C. and added to it in one portion was 2-iodo-5-chlorobenzyl alcohol (0.5 g, 1.86 mmol). This solution was stirred for 30 min at −78° C. then was concentrated in vacuo and placed under high vacuum for 1 h. The residue, under nitrogen atmosphere, was dissolved in THF (20 mL), cooled to −78° C., and 2.5M n-BuLi in THF solution (0.75 mL, 1.86 mmol) was added. This solution was stirred for 15 min at −78° C. and added drop wise was N-ethylidene-2-methyl-2-propanesulfinamide from the previous step (0.274 g, 1.86 mmol) dissolved in THF (5 mL). This solution was stirred for 30 min at −78° C. then was allowed to equilibrate to ambient temperature over 1 h. Saturated NH4Cl was added (3 mL), and the mixture was partitioned between EtOAc and water. The EtOAc layer was separated, dried over anhydrous Na2SO4, and filtered. The filtrate solvent was removed under reduced pressure and the residue was purified by flash silica gel chromatography eluting with a methanol in dichloromethane gradient (1% to 3% MeOH in 0.5% increments). After concentration of desired fractions in vacuo, the separate isomers of 2-(1-tert-butylsulfinamidylethyl)-5-chlorobenzyl alcohol were obtained as a yellow oils (isomer 1(less polar) 120 mg; HPLC RT=2.93 min, method A; LC-MS m/z=290.1; 1H NMR, 400 MHz, CDCl3, 7.38 ppm (s, 1H), 7.36 ppm (d, 1H), 7.28 ppm (dd, 1H), 4.86 ppm (d, 1H), 4.82 ppm (m, 1H), 4.54 ppm (d, 1H), 4.3 ppm (br s, 1H), 3.94 ppm (d, 1H), 1.54 ppm (d, 3H), 1.2 ppm (s, 9H); isomer 2(more polar) 38 mg; HPLC RT=2.69 min; LC-MS m/z=290.1; 1H NMR, 400 MHz, CDCl3 7.4 ppm (d, 1H), 7.365 ppm (d, 1H), 7.28 ppm (dd, 1H), 4.86 ppm (m, 1H), 4.78 ppm (dd, 1H), 4.64 ppm (dd, 1H), 3.67 ppm (br s, 1H), 3.65 ppm (d, 1H), 1.52 ppm (d, 3H), 1.18 ppm (s, 9H)).

reactant | iPr2NH | 2.24 mmol, 0.31 mL | N(C(C)C)C(C)C | C6H15N
reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | 2-iodo-5-chlorobenzyl alcohol | 1.86 mmol, 0.5 g | IC1=C(CO)C=C(C=C1)Cl | C7H6ClIO
reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | N-ethylidene-2-methyl-2-propanesulfinamide | C(C)=NS(=O)C(C)(C)C | C6H13NOS
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.86 mmol, 0.75 mL | C1CCOC1 | C4H8O
solvent | THF | 1.86 mmol, 0.75 mL | C1CCOC1 | C4H8O
product | 2-(1-tert-butylsulfinamidylethyl)-5-chlorobenzyl alcohol | C(C)(C)(C)S(=O)NC(C)C1=C(CO)C=C(C=C1)Cl | C13H20ClNO2S
